US05444050
3-(3-(α-D-mannopyranosyloxymethyl)phenyl)phenylacetic acid (0.05 g, 0.12 mmol), methanol (10 ml), and concentrated sulfuric acid (2 drops) were heated reflux for 1 hour in a 25 ml flask, then quenched with saturated sodium bicarbonate solution, diluted with water (5 ml), extracted with methylene chloride (3×5 ml), washed with brine (10 ml), dried (MgSO4), concentrated under reduced pressure. The residue was purified by flash chromatography (SiO2, 5:1/methylene chloride:methanol) which gave methyl 3-(3-(α-D-mannopyranosyloxymethyl)phenyl)phenylacetate (0.04 g, 77%); 1H NMR: (300 MHz, DMSO-d6) 7.2-7.6 (comp, 8H), 4.70 (s, 1H), 4.49-4.80 (comp, 7H), 3.75 (s, 2H), 3.62 (s, 3H), 3.30-3.50 (comp, 5H) ppm; IR: 3383, 1738, 1135, 1066 cm-1.

reactant | 3-(3-(α-D-mannopyranosyloxymethyl)phenyl)phenylacetic acid | 0.12 mmol, 0.05 g | [C@H]1([C@@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)OCC=1C=C(C=CC1)C=1C=C(C=CC1)CC(=O)O | C21H24O8
reactant | methanol | 10 ml | CO | CH4O
catalyst | sulfuric acid | 2 drops | S(O)(O)(=O)=O | H2O4S
product | methyl 3-(3-(α-D-mannopyranosyloxymethyl)phenyl)phenylacetate | 0.04 g, 77% | [C@H]1([C@@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)OCC=1C=C(C=CC1)C=1C=C(C=CC1)CC(=O)OC | C22H26O8
